US08541448B2
Intermediate 15.3: 6,8-dichloro-2-methyl-4-phenyl-1,2,3,4-tetrahydroisoquinoline
Into a 100-mL 3-necked round-bottom flask, was placed a solution of 2-((2,4-dichlorobenzyl)(methyl)amino)-1-phenylethanol (3.4 g, 11.00 mmol, 1.00 equiv) in dichloromethane (15 mL). This was followed by the addition of sulfuric acid (15 mL) dropwise with stirring at 0° C. The resulting solution was stirred for 2 h at 0° C. in a water/ice bath. The pH value of the solution was adjusted to 7 with 1M sodium hydroxide. The resulting solution was extracted with ethyl acetate (3×60 mL) and the combined organic layers dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with petroleum ether:ethyl acetate (80:1). This resulted in 1.6 g (50%) of the title compound as a colorless oil.

reactant | 2-((2,4-dichlorobenzyl)(methyl)amino)-1-phenylethanol | 11.00 mmol, 3.4 g, 1.00 equiv | ClC1=C(CN(CC(O)C2=CC=CC=C2)C)C=CC(=C1)Cl | C16H17Cl2NO
reactant | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 6,8-dichloro-2-methyl-4-phenyl-1,2,3,4-tetrahydroisoquinoline | 1.6 g, 50% | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=CC=C1 | C16H15Cl2N
